US06414145B1
A solution of methyl 4-bromomethyl-2-(4-fluorophenyl)benzoate (12.85 g; 0.04 mol) and triphenyl phosphine (10.53 g; 0.04 mol) in toluene (230 ml) was treated at reflux for 3 hours. The resulting solid was filtered, washed with ether and pentane and dried to give 3-(4-fluorophenyl)-4-methoxycarbonylbenzyltriphenylphosphonium bromide (12.78 g, 78%).

reactant | methyl 4-bromomethyl-2-(4-fluorophenyl)benzoate | 0.04 mol, 12.85 g | BrCC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C15H12BrFO2
reactant | triphenyl phosphine | 0.04 mol, 10.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 230 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-fluorophenyl)-4-methoxycarbonylbenzyltriphenylphosphonium bromide | 12.78 g, 78% | [Br-].FC1=CC=C(C=C1)C=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1C(=O)OC | InChI=1S/C33H27FO2P.BrH/c1-36-33(35)31-22-17-25(23-32(31)26-18-20-27(34)21-19-26)24-37(28-11-5-2-6-12-28,29-13-7-3-8-14-29)30-15-9-4-10-16-30;/h2-23H,24H2,1H3;1H/q+1;/p-1
